2188-03-14 09:52:00 Physician Attending Progress Note
Chief Complaint:  GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo M HTN, HL, BPH who is transferred from MVH for BRBPR
   24 Hour Events:
   No urine output overnight, with bladder scan urine 30cc
   Troponins continued to increase 1.88
   CVL attempted but patient could not tolerate lying flat
   Received a total of 3 u pRBCs and 5L IVF
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-3-14**] 08:02 AM
   Other medications:
   flomax
   protonix 40 [**Hospital1 **]
   asa 81 qday
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2188-3-14**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**89**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.5
C (95.9
   HR: 79 (68 - 100) bpm
   BP: 115/64(76) {88/39(49) - 132/102(115)} mmHg
   RR: 21 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                  1,218 mL
                                                                  4,337 mL
   PO:
           50 mL
   TF:
   IVF:
                                                                  1,030 mL
                                                                  4,100 mL
   Blood products:
                                                                    188 mL
                                                                    188 mL
   Total out:
                                                                     68 mL
                                                                     93 mL
   Urine:
                                                                     68 mL
                                                                     93 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,150 mL
                                                                  4,244 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.41/25/229/16/-6
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Crackles : bases bilaterally), JVP
   elevated
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Cool, cool distal extremities
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   130 K/uL
   90 mg/dL
   2.5 mg/dL
   16 mEq/L
   4.8 mEq/L
   66 mg/dL
   108 mEq/L
   140 mEq/L
   31.3 %
   13.1 K/uL
        [image002.jpg]
                             [**2188-3-13**]  08:04 PM
                             [**2188-3-13**]  10:17 PM
                             [**2188-3-14**]  12:13 AM
                             [**2188-3-14**]  04:37 AM
                             [**2188-3-14**]  04:52 AM
   WBC
   13.0
   13.1
   Hct
   27.5
   31.3
   Plt
   176
   130
   Cr
   2.5
   2.5
   TropT
   1.23
   1.88
   TCO2
   22
   16
   Glucose
   115
   90
   Other labs: PT / PTT / INR:15.2/26.5/1.3, CK / CKMB /
   Troponin-T:833/82/1.88, ALT / AST:[**Telephone/Fax (1) 11830**], Alk Phos / T Bili:51/1.4,
   Differential-Neuts:93.0 %, Band:2.0 %, Lymph:0.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:1.4 mmol/L, LDH:841 IU/L, Ca++:8.3 mg/dL, Mg++:2.2
   mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo M HTN, BPH who presents with BRPBR, renal insufficiency, NSTEMI:
   His course is likely driven by GIB and recent weight loss is
   concerning, with resultant pre-renal/atn renal failure, shock liver,
   and cardiac strain.  Alternatively, would be concerned for possible
   embolic phenomenon given afib that is not anticoagulated vs. ischemic
   bowel
   1. GIB: unclear ischemic colitis vs diverticulitis vs mass
    - cont f/u hct, t/f goal > 30
     - colonscopy once hemodynamically stable
   2. NSTEMI: possible nstemi but concernign for new right heart failure
   and possible either recent silent MI or ongoing MI.  systemic empiric
   a/c contraindicated at the moment in the setting of acute bleed.
    - troponins rising
    - TTE this morning
    - r-sided ekg leads
    - continue to cycle EKG and cardiac biomarkers
    - Likely not PCI candidate given possible active bleeding, but would
   consult cardiology regarding risk assesment for colonoscopy
    - cont asa if ok with GI
    - hct > 30
   Has right > left pleural effusion. This will need to be addressed when
   he is recovered from GI/ CAD issues, especially in light of weight loss
   3. AoCRF: hypovolemia compounded by NSAID use, but continues to have
   elevated K and metabolic acidosis
    - cont ivf rescuscitation as tolerated
    - check urine sediment
    - cont monitor urine output
   4. Transaminitis: shock liver but ? recent NSAID use and possible
   tylenol use
    - tylenol level negative
    - will continue to trend
   5. R heel ulcer: dry gangrene liekly [**1-8**] PAD
    - wound care consult
   6. FEN: NPO
   7. Access: will re-attempt aline today, will attempt picc given
   inability to lie flat
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2188-3-13**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2188-03-15 06:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2188-3-14**] 08:47 AM
 ULTRASOUND - At [**2188-3-14**] 10:03 AM
   renal
 EKG - At [**2188-3-14**] 12:28 PM
   regular and R sided leads done
 PICC LINE - START [**2188-3-14**] 02:56 PM
   - Patient's cardiac enzymes increased from CK 500 to 800s, trop up to
   1.88, prelim TTE showing multivessel disease, LV systolic dysfunction
   so ASA 325 and simvastatin 80 given and cards consult called
   - Patient given 2 units pRBCs throughout day with goal to keep Hct>30,
   given 20IV lasix w 2nd unit
   - PICC placed for access
   - GI recs: Will wait until more clinically stable for EGD/[**Last Name (un) **]. EGD as
   found to have ETOH history
   - Cards recs: likely demand ischemia rather than plaque rupture. Agree
   with ASA, high dose statin, lasix prn. Chads2 = 3, may benefit from
   coumadin after acute issues, later add BB, ACEi.
   - Lactate decreased 2.1 to 1.2
   - Had mild hematuria overnight
   History obtained from Patient
   Allergies:
   History obtained from Patient
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-3-14**] 08:02 PM
   Furosemide (Lasix) - [**2188-3-14**] 10:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-3-15**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**89**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.6
   HR: 80 (68 - 88) bpm
   BP: 134/63(81) {98/42(55) - 151/89(106)} mmHg
   RR: 17 (14 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
    Mixed Venous O2% Sat: 88 - 88
   Total In:
                                                                  5,239 mL
                                                                    208 mL
   PO:
                                                                    270 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  4,170 mL
   Blood products:
                                                                    799 mL
                                                                     88 mL
   Total out:
                                                                    507 mL
                                                                  1,070 mL
   Urine:
                                                                    507 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,732 mL
                                                                   -862 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   GENERAL: alert and oriented x3, NAD, pleasant
   HEENT: PERRL, EOMI, dry MM. OP clear with fair dentition but missing
   teeth.
   NECK: JVP at 6cm, supple, no LAD, no thyromegaly
   CARDIAC:  S1/S2 regular, irregularly irregular rhythm. No murmurs, rubs
   or gallops appreciated.
   LUNG: Mild Bibasilar crackles ( right>left)
   ABDOMEN: Normoactive bowel sounds throughout, nontender with no rebound
   or guarding. Nondistended. No HSM. Rectal with gross BRB / (hemoccult
   positive in ED)
   EXT: 2+ pedal pulses, quarter-sized ulcer over right heel with partial
   scab, no edema noted
   NEURO: CNs [**1-18**] grossly in tact. Sensation in tact throughout. Deferred
   gait assessment.
   SKIN: wound on right heel as above, no other rashes or bruising, pallid
   complexion
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   164 K/uL
   11.5 g/dL
   91 mg/dL
   2.8 mg/dL
   17 mEq/L
   4.7 mEq/L
   72 mg/dL
   110 mEq/L
   143 mEq/L
   33.9 %
   12.1 K/uL
        [image002.jpg]
                             [**2188-3-13**]  08:04 PM
                             [**2188-3-13**]  10:17 PM
                             [**2188-3-14**]  12:13 AM
                             [**2188-3-14**]  04:37 AM
                             [**2188-3-14**]  04:52 AM
                             [**2188-3-14**]  11:48 AM
                             [**2188-3-14**]  07:50 PM
                             [**2188-3-15**]  03:51 AM
   WBC
   13.0
   13.1
   11.2
   12.1
   Hct
   27.5
   31.3
   28.0
   27.6
   33.9
   Plt
   176
   130
   164
   164
   Cr
   2.5
   2.5
   2.7
   2.8
   TropT
   1.23
   1.88
   1.82
   1.85
   2.05
   TCO2
   22
   16
   Glucose
   115
   90
   96
   91
   Other labs: PT / PTT / INR:13.4/28.9/1.1, CK / CKMB /
   Troponin-T:469/39/2.05, ALT / AST:441/518, Alk Phos / T Bili:53/1.1,
   Amylase / Lipase:127/228, Differential-Neuts:93.0 %, Band:2.0 %,
   Lymph:0.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.1
   g/dL, LDH:540 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:6.1 mg/dL
   TTE [**3-14**]:
   The left atrium is moderately dilated. No left atrial mass/thrombus
   seen (best excluded by transesophageal echocardiography). There is mild
   symmetric left ventricular hypertrophy with normal cavity size. There
   is moderate regional left ventricular systolic dysfunction with near
   akinesis of the basal inferior wall, distal half of the septum and
   lateral and distal anterior wall. There is apical dyskinesis. The
   remaining segments contract normally (LVEF = 30-35 %). The estimated
   cardiac index is depressed (<2.0L/min/m2). No masses or thrombi are
   seen in the left ventricle. Tissue Doppler imaging suggests an
   increased left ventricular filling pressure (PCWP>18mmHg). Right
   ventricular chamber size is normal. with focal hypokinesis of the
   apical half of the free wall. The aortic root is mildly dilated at the
   sinus level. The aortic valve leaflets (3) are mildly thickened but
   aortic stenosis is not present. Mild (1+) aortic regurgitation is seen.
   The mitral valve leaflets are mildly thickened. Mild to moderate ([**12-8**]+)
   mitral regurgitation is seen. Moderate to severe [3+] tricuspid
   regurgitation is seen. There is moderate pulmonary artery systolic
   hypertension. Significant pulmonic regurgitation is seen. There is no
   pericardial effusion.
   IMPRESSION: Mild symmetric left ventricular hypertrophy with extensive
   regional systolic dysfunction c/w multivessel CAD. Moderate pulmonary
   artery systolic hypertension. Mild-moderate mitral regurgitation.
   Moderate to severe tricuspid regurgitation. Increased PCWP.
   Assessment and Plan
 .H/O EXTREMITY ULCER, CHRONIC (INCLUDING GANGRENE)
 EXTREMITY ULCER, CHRONIC (INCLUDING GANGRENE)
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   [**Age over 90 **]-year-old male with PMH significant for HTN, atrial fibrillation ( on
   home ASA), and hyperlipidemia who presents with GIB with NSTEMI and ARF
   in setting of hypovolemia and severe anemia.
   .
   #GI Bleeding: Still required 2 units pRBCs over course of yesterday.
   Ddx includes ischemic colitis with ischemic disease vs malignancy in
   lower GI tract. Liver service got increased ETOH history prompting
   possible EGD, however with neg NG lavage and sxs, still more suspicion
   for lower GI source.
   - GI following, appreciate recs
   - trending HCTs q8hr, keeping goal HCT >30 given NSTEMI
   - holding anti-HTN medications
   - 2x 18g PIVs in place
   - IV PPI q 12 hours
   .
   #NSTEMI: Patient had no documented history of CAD, but TTE yesterday
   confirming likely ischemic disease with EF 30-35 and extensive regional
   dysfunction leading to demand ischemia in setting of bleed/anemia. CK
   peaked in 800s, now trending downwards.
   - cardiology following, appreciate recs
   - continue ASA 325 (ok with GI)
   - monitor fluid status, can start diuresing to goal -500
 1L ml out
   over day (patient positive 5L LOS)
   - monitor telemetry
   - holding BB, no current anticoagulation due to recent low BP and GIB
   however CHADs2 is 3, so should discuss risks/benefits of coumadin after
   stable
   - repeat EKG
   .
   # Atrial Fibrillation: Still in atrial fibrillation on EKG and
   telemetry, rates in the 70-90s now. Patient states he was diagnosed
   with atrial fibrillation about 4-5 months ago. He was on Coumadin for
   few weeks but had hematuria so switched to ASA daily.
   - hold coumadin, continue ASA
   -continue telemetry monitoring, HR 70-90 now
   -holding beta blocker for now given hypotension and GIB
   .
   #ARF: Cr still not improving, 2.8 this AM. Una not low, may be
   component of ATN. Unclear baseline. Renal ultrasound without
   hydronephrosis. Hyperkalemia improved
   - trend Cr, avoid nephrotoxins
   - f/up PCP records for Cr baseline
   - monitor UOP, goal >30cc/hr
   - *****
   .
   #HTN: Currently normotensive with BPs 120/60s range.
   - will hold anti-HTN meds due to hypotension and GIB
   - may need beta blocker, ACEi for new CAD once more stable
   .
   #Transaminitis: Likely [**1-8**] shock liver
   - trending downwards
   .
   #Right heel ulcer:
   - clean dry guauze dressings
   - wound care consult in place
   - cushioned boot for comfort
   .
   #BPH :
   - holding flomax for now
   .
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   18 Gauge - [**2188-3-13**] 07:00 PM
   PICC Line - [**2188-3-14**] 02:56 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: IV PPI
   VAP:
   Comments:
   Communication:  Comments: [**First Name8 (NamePattern2) 1622**] [**Known lastname 11821**] / HCP , phone# [**Telephone/Fax (1) 11822**]
   Code status: Full code
   Disposition: ICU for now

2188-03-15 10:35:00 Physician Attending Progress Note
Chief Complaint: GI bleed, NSTEMI
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] year old man with afib, htn,hyperlipidemia a/w GI bleed.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2188-3-14**] 08:47 AM
 ULTRASOUND - At [**2188-3-14**] 10:03 AM
   renal
 EKG - At [**2188-3-14**] 12:28 PM
   regular and R sided leads done
 PICC LINE - START [**2188-3-14**] 02:56 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-3-14**] 08:02 PM
   Furosemide (Lasix) - [**2188-3-14**] 10:48 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Edema, no chest pain
   Nutritional Support: NPO
   Flowsheet Data as of  [**2188-3-15**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**89**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.7
C (96.2
   HR: 86 (68 - 88) bpm
   BP: 142/87(101) {99/45(55) - 151/89(106)} mmHg
   RR: 19 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
   Mixed Venous O2% Sat: 88 - 88
   Total In:
                                                                  5,239 mL
                                                                    208 mL
   PO:
                                                                    270 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  4,170 mL
   Blood products:
                                                                    799 mL
                                                                     88 mL
   Total out:
                                                                    507 mL
                                                                  1,380 mL
   Urine:
                                                                    507 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,732 mL
                                                                 -1,172 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///17/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.5 g/dL
   164 K/uL
   91 mg/dL
   2.8 mg/dL
   17 mEq/L
   4.7 mEq/L
   72 mg/dL
   110 mEq/L
   143 mEq/L
   33.9 %
   12.1 K/uL
        [image002.jpg]
                             [**2188-3-13**]  08:04 PM
                             [**2188-3-13**]  10:17 PM
                             [**2188-3-14**]  12:13 AM
                             [**2188-3-14**]  04:37 AM
                             [**2188-3-14**]  04:52 AM
                             [**2188-3-14**]  11:48 AM
                             [**2188-3-14**]  07:50 PM
                             [**2188-3-15**]  03:51 AM
   WBC
   13.0
   13.1
   11.2
   12.1
   Hct
   27.5
   31.3
   28.0
   27.6
   33.9
   Plt
   176
   130
   164
   164
   Cr
   2.5
   2.5
   2.7
   2.8
   TropT
   1.23
   1.88
   1.82
   1.85
   2.05
   TCO2
   22
   16
   Glucose
   115
   90
   96
   91
   Other labs: PT / PTT / INR:13.4/28.9/1.1, CK / CKMB /
   Troponin-T:469/39/2.05, ALT / AST:441/518, Alk Phos / T Bili:53/1.1,
   Amylase / Lipase:127/228, Differential-Neuts:93.0 %, Band:2.0 %,
   Lymph:0.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.1
   g/dL, LDH:540 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   Agree with assesment and plan as outlined in resident note.
   Briefly, [**Age over 90 **] year old man with presumed CAD presents with GIB and assoc.
   NSTEMI.
   Plan:
   GI BLEED
 Improved.  Monitor serial Hct, transfuse for Hct < 30. IV
   PPI q12, single lumen PICC for access.
   ANEMIA
 hemorrhagic, attributed to GI bleed.  Monitor Hct.  Transfuse
   if <30.
   NSTEMI
 related to secondary event (stress of anemia).  Apreciate
   cardiac input
  medical management, though limited by GIB.  Plan ASA,
   simvastatin, will try to add on b-blocker and ACE inihibtor today if
   tolerates by BP.
   AFIb - rate controlled for now. No anticoagulation [**1-8**] GIB
   ACUTRE RENAL FAILURE
 Non oliguric.  (Need to compare to prior
   creatinine determinations).  Possibly related to prerenal insult (actue
   GI bleed)
 ATN.  Monitor creatinine, BUN, urine lytes. Urine output.
   ICU Care
   Nutrition:
   Comments: NPO - pending GI w/u. Clears if no plans for scope until next
   week
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2188-3-13**] 07:00 PM
   PICC Line - [**2188-3-14**] 02:56 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition :MICU
   Total time spent: 35 minutes

2188-03-16 06:52:00 Physician Resident Progress Note
Chief Complaint: [**Age over 90 **]yo male admitted with NSTEMI and LGIB
   24 Hour Events:
   - switched PPI to PO BID dosing
   - advanced diet to clears, tolerating well
   - continued on BB, ASA, statin
   - blood pressure stable overnight
   - hematuria better, HCTs stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-3-16**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**89**] AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.2
C (95.4
   HR: 80 (75 - 99) bpm
   BP: 134/80(106) {107/49(62) - 148/94(106)} mmHg
   RR: 20 (14 - 27) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
                  Total In:
                                                                  1,008 mL
                                                                    270 mL
   PO:
                                                                    920 mL
                                                                    270 mL
   TF:
   IVF:
   Blood products:
                                                                     88 mL
   Total out:
                                                                  1,945 mL
                                                                    242 mL
   Urine:
                                                                  1,945 mL
                                                                    242 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -937 mL
                                                                     28 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///21/
   Physical Examination:
   General: alert and oriented x3, NAD
   SKIN: R PICC clean/ in tact,  pale complexion
   LUNGS: clear to auscultation, slightly decreased sounds at bases
   bilaterally
   CVS: irregularly irregular HR, no murmurs / rubs
   ABD:  normoactive BS,  soft , nontender, nondistended, no hepatomegaly
   EXT: 1+ right LE pulse, 2+ left LE pulse, warm, RLE bandaged over heel
   wound
   Labs / Radiology
   185 K/uL
   11.2 g/dL
   120 mg/dL
   2.6 mg/dL
   21 mEq/L
   4.2 mEq/L
   67 mg/dL
   108 mEq/L
   141 mEq/L
   33.3 %
   12.1 K/uL
        [image002.jpg]
   ECHO : IMPRESSION: LVEF 30% Mild symmetric left ventricular hypertrophy
   with extensive regional systolic dysfunction c/w multivessel CAD.
   Moderate pulmonary artery systolic hypertension. Mild-moderate mitral
   regurgitation. Moderate to severe tricuspid regurgitation. Increased
   PCWP.
                             [**2188-3-13**]  08:04 PM
                             [**2188-3-13**]  10:17 PM
                             [**2188-3-14**]  12:13 AM
                             [**2188-3-14**]  04:37 AM
                             [**2188-3-14**]  04:52 AM
                             [**2188-3-14**]  11:48 AM
                             [**2188-3-14**]  07:50 PM
                             [**2188-3-15**]  03:51 AM
                             [**2188-3-15**]  03:31 PM
                             [**2188-3-16**]  03:11 AM
   WBC
   13.0
   13.1
   11.2
   12.1
   12.1
   Hct
   27.5
   31.3
   28.0
   27.6
   33.9
   33.2
   33.3
   Plt
   176
   130
   164
   164
   185
   Cr
   2.5
   2.5
   2.7
   2.8
   2.6
   TropT
   1.23
   1.88
   1.82
   1.85
   2.05
   3.29
   TCO2
   22
   16
   Glucose
   115
   90
   96
   91
   120
   Other labs: PT / PTT / INR:13.1/28.5/1.1, CK / CKMB /
   Troponin-T:175/14/3.29, ALT / AST:441/518, Alk Phos / T Bili:53/1.1,
   Amylase / Lipase:127/228, Differential-Neuts:93.0 %, Band:2.0 %,
   Lymph:0.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.1
   g/dL, LDH:540 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan:
   [**Age over 90 **]-year-old male with PMH significant for HTN, atrial fibrillation ( on
   home ASA), and hyperlipidemia who presented with LGIB,   NSTEMI and ARF
   in setting of hypovolemia  & severe anemia with HCT drop to 21 range.
   .
   #GI Bleeding: Now appears to be resolving and stable HCT in low 30s
   range (31-33) after 5 Units PRBCs.  Ddx includes diverticulitis, AVM,
   and ischemic colitis vs malignancy in lower GI tract. Patient endorsed
   some increased ETOH history prompting possible EGD to be done in near
   future alongside colonoscopy.  Negative NG lavage and symptoms still
   favor this as an acute LGI process vs. UGI.
   - GI following, appreciate recs- await endoscopy once stable
   - trending HCTs q12h, keeping goal HCT >30 given NSTEMI
   - on low dose BB now as blood pressures have recovered, will monitor BP
   closely
   - 2x 18g PIVs in place & PICC line
   - ppi [**Hospital1 **]
   -ADAT, now tolerating clears well
   .
   #NSTEMI: Known history of HTN and hyperlipidemia but no previous MIs or
   confirmed CAD. TTE consistent with multivessel ischemic disease with EF
   30-35% and extensive regional dysfunction. Patient likely had NSTEMI
   [**1-8**] demand ischemia in setting of GI bleed with acute anemia. CK peaked
   in 800s, now trending downwards.  No current SOB,CP or palpitations.
   - cardiology following, appreciate recs
   - continue ASA 325mg  (ok with GI), low dose metoprolol, high dose
   statin
   - start low dose captopril with close f/u of lytes, BP
   - cont monitor telemetry
   .
   # Atrial Fibrillation: Still in atrial fibrillation on EKG and
   telemetry, rates in the 70-90s now. Patient states he was diagnosed
   with atrial fibrillation about 4-5 months ago. He was on Coumadin for
   few weeks but had hematuria so switched to ASA daily.
   - holding  coumadin, continue ASA
   - continue telemetry monitoring, HR 70-90 now
   - slowly uptitrate metoprolol as tolerates .
   #ARF: Cr still near same 2.5-2.6 range and very slow to improve.  Given
   that urine sodium is not particularly low he likely has a component of
   ATN. Unclear baseline. Renal ultrasound without hydronephrosis.
   Hyperkalemia improving which is reassuring. Also much better UOP now.
   - continue to trend Cr, avoid nephrotoxins
   - f/up PCP records for Cr baseline
   - monitor UOP, goal >30cc/hr
   .
   #HTN: Currently normotensive with BPs 120-140s/60s-70s range.
   - continue metoprolol, hold on further titration at this time
   - adding low dose ACEI
   .
   #Transaminitis: Likely [**1-8**] shock liver
   - trending downwards, continue to monitor labs for improvement
   .
   #Right heel ulcer:
   - clean dry guauze dressings
   - wound care consult in place
   - cushioned boot for comfort
   .
   #BPH :
   - holding flomax for now given recent low BPs
   ICU Care
   Nutrition:
   tolerating clears now, ADAT
   Glycemic Control:
   Lines:
   PICC Line - [**2188-3-14**] 02:56 PM
   18 Gauge - [**2188-3-15**] 04:14 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer:  ppi [**Hospital1 **]
   VAP:  n/a
   Communication:  with family
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Call out today
   ------ Protected Section Addendum Entered By:[**First Name4 (NamePattern1) 366**] [**Last Name (NamePattern1) 3268**], MD
   on:[**2188-3-16**] 09:22 ------

2188-03-16 09:22:00 Physician Attending Progress Note
Chief Complaint: NSTEMI, GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] y/o man with likely LGIB and NSTEMI, medically managed per cards
   24 Hour Events:
   Last transfusion overnight Firday
   History obtained from Patient, Family / [**Hospital 380**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   PO PPI, ASA, Statin,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No fever
   Respiratory: No dyspnea or cough
   Gastrointestinal: No abdominal pain
   Genitourinary: hematuria
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2188-3-16**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**89**] AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.7
C (96.3
   HR: 91 (76 - 99) bpm
   BP: 145/83(98) {107/49(62) - 149/94(106)} mmHg
   RR: 21 (17 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
                  Total In:
                                                                  1,008 mL
                                                                    270 mL
   PO:
                                                                    920 mL
                                                                    270 mL
   TF:
   IVF:
   Blood products:
                                                                     88 mL
   Total out:
                                                                  1,945 mL
                                                                    242 mL
   Urine:
                                                                  1,945 mL
                                                                    242 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -937 mL
                                                                     28 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Lungs
  clear, no rales
   CV
 RR no murmurs
   Abd -  soft NTND BS+
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.2 g/dL
   185 K/uL
   120 mg/dL
   2.6 mg/dL
   21 mEq/L
   4.2 mEq/L
   67 mg/dL
   108 mEq/L
   141 mEq/L
   33.3 %
   12.1 K/uL
        [image002.jpg]
                             [**2188-3-13**]  08:04 PM
                             [**2188-3-13**]  10:17 PM
                             [**2188-3-14**]  12:13 AM
                             [**2188-3-14**]  04:37 AM
                             [**2188-3-14**]  04:52 AM
                             [**2188-3-14**]  11:48 AM
                             [**2188-3-14**]  07:50 PM
                             [**2188-3-15**]  03:51 AM
                             [**2188-3-15**]  03:31 PM
                             [**2188-3-16**]  03:11 AM
   WBC
   13.0
   13.1
   11.2
   12.1
   12.1
   Hct
   27.5
   31.3
   28.0
   27.6
   33.9
   33.2
   33.3
   Plt
   176
   130
   164
   164
   185
   Cr
   2.5
   2.5
   2.7
   2.8
   2.6
   TropT
   1.23
   1.88
   1.82
   1.85
   2.05
   3.29
   TCO2
   22
   16
   Glucose
   115
   90
   96
   91
   120
   Other labs: PT / PTT / INR:13.1/28.5/1.1, CK / CKMB /
   Troponin-T:175/14/3.29, ALT / AST:441/518, Alk Phos / T Bili:53/1.1,
   Amylase / Lipase:127/228, Differential-Neuts:93.0 %, Band:2.0 %,
   Lymph:0.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.1
   g/dL, LDH:540 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   [**Age over 90 **] y/o man with likely multivessel CAD (based on TTE) and GIB.
   GIB
   -Hct now stable x 24hrs
   -GI following intend to scope before d/c (hopefully tomorrow)
   -consider adding low dose ACE today (short acting, IV agents with close
   monitoring of Cr, K).
   Renal insufficiency
   - Not clear what his baseline Cr is.
   NSTEMI
   -Continue ASA + statin
   -medical management for now
 likely related to anemia from bleed
   rather than plaque mediated
   -echo with WMA in multiple segmental regions making likely multi-vessel
   disease
   -Cardiology following
   I agree with remainder of plan as outlined in resident note.
   Okay to transfer to floor today.
   ICU Care
   Nutrition:
   Comments: clear liquids
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2188-3-14**] 02:56 PM
   18 Gauge - [**2188-3-15**] 04:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2188-03-18 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - During PM of [**3-17**] patient went down for IR, s/p 3 coils in a bleeding
   distal branch of the [**Female First Name (un) **]
   - Patient given a total of 10units pRBCs since transfer to MICU
   - Given mucomyst and sodium bicarb for renal protection with contrast
   load
   - Patient still with >6 movements of BRBPR with clots, averaging
   250cc/episode, once an hour. Paged IR at midnight and taken back to IR
   suite for 2nd angio overnight which did not localize the bleeding.
   Surgery aware and likely going to OR this morning. Given 1 unit
   platelets prior.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2188-3-17**] 03:07 PM
   Pantoprazole (Protonix) - [**2188-3-17**] 09:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-3-18**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**89**] AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.1
C (95.2
   HR: 91 (72 - 98) bpm
   BP: 108/65(76) {78/17(53) - 148/80(120)} mmHg
   RR: 22 (13 - 23) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
           Total In:
                                                                  4,464 mL
                                                                  1,569 mL
   PO:
           TF:
   IVF:
                                                                  1,914 mL
                                                                    693 mL
   Blood products:
                                                                  2,550 mL
                                                                    877 mL
   Total out:
                                                                    725 mL
                                                                    435 mL
   Urine:
                                                                    725 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,739 mL
                                                                  1,134 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///26/
   Physical Examination
   General: alert and oriented x3, minimal distress, pale complexion
   HEENT: dry MM,  OP clear, PERRL & EOMI
   Lungs: CTA bilaterally
   CVS: rapid rate, irregularly irregular, minimal systolic murmur at
   sternal border
   Abd: +NABS, soft, nontender, nondistended despite GIB
   Ext
 pneumoboots, 2+ pedal pulses preserved , no edema
   Skin
 warm, except cool hands, on Bair hugger warm blanket
   Tubes
additional angiseal w/draining dark red blood from rectum in
   place
   Labs / Radiology
   106 K/uL
   10.1 g/dL
   146 mg/dL
   1.7 mg/dL
   26 mEq/L
   3.7 mEq/L
   54 mg/dL
   109 mEq/L
   143 mEq/L
   28.0 %
   12.4 K/uL
        [image002.jpg]
                             [**2188-3-15**]  03:31 PM
                             [**2188-3-16**]  03:11 AM
                             [**2188-3-16**]  06:08 PM
                             [**2188-3-17**]  08:10 AM
                             [**2188-3-17**]  09:47 AM
                             [**2188-3-17**]  12:44 PM
                             [**2188-3-17**]  06:11 PM
                             [**2188-3-17**]  10:05 PM
                             [**2188-3-18**]  12:45 AM
                             [**2188-3-18**]  04:53 AM
   WBC
   12.1
   11.6
   12.4
   Hct
   33.2
   33.3
   32.0
   32.5
   26.2
   28.5
   27.4
   29.0
   28.0
   Plt
   185
   170
   106
   Cr
   2.6
   2.3
   1.8
   1.7
   TropT
   3.29
   4.29
   4.40
   4.06
   4.99
   4.90
   5.17
   Glucose
   120
   109
   123
   146
   Other labs: PT / PTT / INR:15.3/36.1/1.3, CK / CKMB /
   Troponin-T:67/8/5.17, ALT / AST:441/518, Alk Phos / T Bili:53/1.1,
   Amylase / Lipase:127/228, Differential-Neuts:93.0 %, Band:2.0 %,
   Lymph:0.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:3.1
   g/dL, LDH:540 IU/L, Ca++:6.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   [**Age over 90 **]M with afib, HTN with BRBPR c/b NSTEMI and ARF readmitted to MICU
   yesterday for active bleeding with continued bleeding despite 2 angio
   procedures overnight.
   .
   * GI bleeding
   Suspect lower source given BRBPR, most likely a diverticular bleed per
   GI opinion. Also could be  AVM, or malignancy. No associated abdominal
   pain to suggest ischemia, though should be considered with afib. Less
   likely a brisk upper bleed eg due to PUD. Since coming to the MICU, BPs
   have dipped and he is now s/p 10 Units blood x 24 hours
   - f/up final report from overnight IR Angio ( 2^nd procedure).--> may
   need general surgery & OR today
   - f/up additional GI recs, now holding off on colonoscopy in favor of
   IR/surgery instead given extent of LGI hemorrhage.
   - continue to  transfuse actively with PRBCs now, goal >30 given
   concern for cardiac ischemia
   - access PICC, CVL at RIJ, PIV 18g
   - trend hct q4h today
   - continue IV PPI [**Hospital1 **]
    -hold metoprolol for now
   - given renal insufficiency and possibility of platelet dysfunction
   will also give ddavp, adding Plts PRN as well
   .
   * NSTEMI: Trop still lingering and elevated but all CKs flat for 3 days
   now. No c/o active CP.
   Patient with evidence of multivessel disease on TTE. Ruled in for
   NSTEMI by enzymes this admission with enzymes recently trending down.
   Attributed to demand ischemia in setting of bleeding
   .
   - HOLD aspirin for now given active bleeding
   - HOLD metoprolol
   - continue statin
   - continue trend cardiac enzymes
   - repeat EKG
   - telemetry
   .
   * Atrial fibrillation
   Patient diagnosed [**3-10**] mo prior to admission. Not on warfarin as an
   outpt [**1-8**] hematuria. Given multiple bleeding episodes would be
   hesistant to restart on warfarin. CHADS=3 (chf, htn, age)
   - need to hold ASA for very active GIB
   - holding metoprolol given low  BP and bleeding
   .
   * CHF, systolic, chronic
   Likely due to underlying CAD. Likely intravascularly dry given
   bleeding, dizziness on standing.
   - holding metoprolol and captopril for now
   - follow i/o, weights
   .
   * Acute renal failure
   [**Month (only) 11**] be [**1-8**] prerenal state given bleeding, NSAID use. Cr has been very
   slowly trending down this admission. Also consider ATN.
   - trend Cr, urine output goal >30cc/hr
 especially in setting of
   hypovolemia and LGIB
   - avoid nephrotoxins, renally dose meds
   - check PM lytes
   .
   * Anion gap
   Likely due to renal failure. Less likely, lactic acidosis.
   - recheck lactate
   - trend chemistries
   .
   * HTN
   - hold home antihypertensives for now given bleeding
   .
   * R heel ulcer
   - continue local care, does not appear infected
   ICU Care
   Nutrition: NPO for procedures
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-3-17**] 09:50 AM
   PICC Line - [**2188-3-17**] 09:51 AM
   Trauma line - [**2188-3-17**] 11:39 AM
   Prophylaxis:
   DVT: Pneumoboots / no anticoagulation given active GIB
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: ICU consent signed
   Code status: Full code
   Disposition: ICU

2188-03-18 09:11:00 Physician Attending Progress Note
Chief Complaint: Gastrointestinal bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo M CAD, PVD who presented with BRBPR and NSTEMI.  He was initially
   hemodynamically stable but on HSD # 3 developed recurrent BRBPR and
   required angiography.
   24 Hour Events:
   IR Angio to [**Female First Name (un) **] with three coils.  Patient remained hemodynamically
   stable while awaiting procedure and until late in the evenign after the
   procedure.  He later developed increasing numbers of bright red clots
   per rectum with SBP to 70s, no requirement for pressors.  IR was
   contact[**Name (NI) **] and he was taken back to angiography with no evidence of
   active bleeding.  Surgery aware and considering taking the patient to
   the OR.  The family is aware, the patient is somewhat reluctant to
   proceed with surgery.  He is currently hemodynamically stable s/p 10U
   pRBCs.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2188-3-17**] 03:07 PM
   Pantoprazole (Protonix) - [**2188-3-17**] 09:15 PM
   Other medications:
   IV PPI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2188-3-18**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**89**] AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.1
C (95.2
   HR: 91 (72 - 98) bpm
   BP: 108/65(76) {78/17(53) - 148/80(120)} mmHg
   RR: 22 (13 - 23) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
           Total In:
                                                                  4,464 mL
                                                                  1,845 mL
   PO:
           TF:
   IVF:
                                                                  1,914 mL
                                                                    895 mL
   Blood products:
                                                                  2,550 mL
                                                                    950 mL
   Total out:
                                                                    725 mL
                                                                    435 mL
   Urine:
                                                                    725 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,739 mL
                                                                  1,410 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin, pale
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : fine crackles
   at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   106 K/uL
   146 mg/dL
   1.7 mg/dL
   26 mEq/L
   3.7 mEq/L
   54 mg/dL
   109 mEq/L
   143 mEq/L
   28.0 %
   12.4 K/uL
        [image002.jpg]
                             [**2188-3-15**]  03:31 PM
                             [**2188-3-16**]  03:11 AM
                             [**2188-3-16**]  06:08 PM
                             [**2188-3-17**]  08:10 AM
                             [**2188-3-17**]  09:47 AM
                             [**2188-3-17**]  12:44 PM
                             [**2188-3-17**]  06:11 PM
                             [**2188-3-17**]  10:05 PM
                             [**2188-3-18**]  12:45 AM
                             [**2188-3-18**]  04:53 AM
   WBC
   12.1
   11.6
   12.4
   Hct
   33.2
   33.3
   32.0
   32.5
   26.2
   28.5
   27.4
   29.0
   28.0
   Plt
   185
   170
   106
   Cr
   2.6
   2.3
   1.8
   1.7
   TropT
   3.29
   4.29
   4.40
   4.06
   4.99
   4.90
   5.17
   Glucose
   120
   109
   123
   146
   Other labs: PT / PTT / INR:15.3/36.1/1.3, CK / CKMB /
   Troponin-T:67/8/5.17, ALT / AST:441/518, Alk Phos / T Bili:53/1.1,
   Amylase / Lipase:127/228, Differential-Neuts:93.0 %, Band:2.0 %,
   Lymph:0.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:3.1
   g/dL, LDH:540 IU/L, Ca++:6.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo M CAD, PVD, here w GIB likely [**Female First Name (un) **] and splenic flexure
   1. GIB: recurrent bleed overnight after angio procedure, with no
   evidence of bleed when taken to suite.  Most likely diverticular in
   nature.  Although surgery is likely next management step, patient is
   unsure if he would like to go through with this
    - will continue to monitor hemodynamics
    - continue to t/f as necessay f/u q 2 hr hct, giving platelets and ffp
   with pRBCs
    - continue to monitor SaO2 with transfusions, lasix if necessary
   2. CAD/NSTEMI: currently appears stable with no further ekg changes
    - trending enzymes, ekg
    - holding asa and bb while bleeding statin (while npo)
    - patient is at risk for intra-operative cardiac event, but if the
   decision is made tp proceed with surgery, in the abscence of current
   acs, benefits of surgery outweigh risk.  This algorithm may change if
   cardiac status detiorates
   3. CHF:
    - currently does not appear volume overloaded, continue to monitor
   volume status and would give lasix if any effect on oxygenation/wob
   4. AoCRF: s/p 2 angio dye loads, but creatinine remains stable
    - cont follow
    - getting mucomyst and bicarb
   5. Goals of care:
    - patients family coming in to ICU today, will discuss possible
   further interventions including surgery
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-3-17**] 09:50 AM
   PICC Line - [**2188-3-17**] 09:51 AM
   Trauma line - [**2188-3-17**] 11:39 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill